US20010027196A1
To a stirred solution of 250 mg (0.75 mmol) trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester in 10 ml DME was added 0.82 ml (7.56 mmol) benzylamine and the mixture heated at 80° C. for 72 hours. The reaction mixture was then cooled to room temperature and partitioned between dichloromethane and water. The phases were separated and the organic phase dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ether/hexane to afford 79 mg (38%) 6-amino-4-benzylamino-2-furan-2-yl-nicotinonitrile as a white crystalline solid. ES-MS m/e (%): 291 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester | 0.75 mmol, 250 mg | NC1=CC(=C(C(=N1)C=1OC=CC1)C#N)OS(=O)(=O)C(F)(F)F | C11H6F3N3O4S
reactant | benzylamine | 7.56 mmol, 0.82 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 6-amino-4-benzylamino-2-furan-2-yl-nicotinonitrile | 79 mg, 38% | NC1=NC(=C(C#N)C(=C1)NCC1=CC=CC=C1)C=1OC=CC1 | C17H14N4O
